US09238640B2
To a solution of 4-hydroxy-3,5-dimethyl benzaldehyde (5.0 g, 33.29 mmol) in DMF (30 mL) were added 3-bromo propan-1-ol (5.56 g, 39.95 mmol) and Cs2CO3 (16.24 g, 50.0 mmol). Then, the reaction mixture was stirred at room temperature for 48 hours. Then, water was added and the products were extracted with ethyl acetate (2×250 mL). The combined organic phase was washed with water (100 mL), then brine (100 mL), and dried over anhydrous Na2SO4. Removal of solvent gave 4-(3-hydroxypropoxy)-3,5-dimethyl benzaldehyde as a colorless liquid. Yield: 5.38 g (77%).

reactant | 4-hydroxy-3,5-dimethyl benzaldehyde | 33.29 mmol, 5.0 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | 3-bromo propan-1-ol | 39.95 mmol, 5.56 g | BrCCCO | C3H7BrO
reactant | Cs2CO3 | 50.0 mmol, 16.24 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(3-hydroxypropoxy)-3,5-dimethyl benzaldehyde | OCCCOC1=C(C=C(C=O)C=C1C)C | C12H16O3
